US07547697B2
3-(2,2-Dimethyl-propyl)-6,6-dimethyl-6,7-dihydro-5H-cyclopenta[c]pyridazine
off-white solid. MS (ESI): 219.3 (MH+). Prepared from 4,4-dimethyl-cyclopentane-1,2-dione, (4,4-dimethyl-2-oxo-pentyl)-phosphonic acid dimethyl ester, hydrazine monohydrate.

reactant | 4,4-dimethyl-cyclopentane-1,2-dione | CC1(CC(C(C1)=O)=O)C | C7H10O2
reactant | (4,4-dimethyl-2-oxo-pentyl)-phosphonic acid dimethyl ester | COP(OC)(=O)CC(CC(C)(C)C)=O | C9H19O4P
reactant | hydrazine monohydrate | O.NN
product | 3-(2,2-Dimethyl-propyl)-6,6-dimethyl-6,7-dihydro-5H-cyclopenta[c]pyridazine | CC(CC1=CC2=C(N=N1)CC(C2)(C)C)(C)C | C14H22N2
